US03998834
A mixture of 3.1 parts of (2-bromoethyl)benzene, 4.6 parts of ethyl 4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate, 2.7 parts of N,N-diethylethanamine and 67.5 parts of N,N-dimethylacetamide is stirred for 2 hours at 70° C. The reaction mixture is poured onto 600 parts of water, whereupon an oil is precipitated. The supernatant phase is decanted and discarded. The oily product is dissolved in 210 parts of 1,1'-oxybispropane. The solution is washed twice with water, dried, filtered and evaporated. The residue is converted into the ethanedioate salt in 2-propanol. The salt is filtered off and dried at 120° C, yielding ethyl 4-[N-(1-oxopropyl)-N-phenylamino]-1-(2-phenylethyl)-4-piperidinecarboxylate ethanedioate hemihydrate; mp. 197.1° C.

reactant | (2-bromoethyl)benzene | BrCCC1=CC=CC=C1 | C8H9Br
reactant | ethyl 4-[N-(1-oxopropyl)-N-phenylamino]-4-piperidinecarboxylate | O=C(CC)N(C1=CC=CC=C1)C1(CCNCC1)C(=O)OCC | C17H24N2O3
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
reactant | water | O | H2O
product | ethyl 4-[N-(1-oxopropyl)-N-phenylamino]-1-(2-phenylethyl)-4-piperidinecarboxylate ethanedioate hemihydrate | O.C(C(=O)O)(=O)O.O=C(CC)N(C1=CC=CC=C1)C1(CCN(CC1)CCC1=CC=CC=C1)C(=O)OCC.C(C)OC(=O)C1(CCN(CC1)CCC1=CC=CC=C1)N(C(CC)=O)C1=CC=CC=C1.C(C(=O)O)(=O)O | InChI=1S/2C25H32N2O3.2C2H2O4.H2O/c2*1-3-23(28)27(22-13-9-6-10-14-22)25(24(29)30-4-2)16-19-26(20-17-25)18-15-21-11-7-5-8-12-21;2*3-1(4)2(5)6;/h2*5-14H,3-4,15-20H2,1-2H3;2*(H,3,4)(H,5,6);1H2
